US07435744B2
2-(4-Benzyl-piperidin-1-yl)-N-(3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)-acetamide (45 70002191)
The title compound is prepared from 2-chloro-N-(3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)-acetamide and 4-benzyl-piperidine according to the method described in Example 142b. Melting Point: 220-222° C. (diethylether)

reactant | 2-chloro-N-(3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)-acetamide | ClCC(=O)NC=1C=CC2=C(NC(CO2)=O)C1 | C10H9ClN2O3
reactant | 4-benzyl-piperidine | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
solvent | diethylether | C(C)OCC | C4H10O
product | 2-(4-Benzyl-piperidin-1-yl)-N-(3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)-acetamide | C(C1=CC=CC=C1)C1CCN(CC1)CC(=O)NC=1C=CC2=C(NC(CO2)=O)C1 | C22H25N3O3
